US07618979B2
Step 7 methyl [1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]acetate
To NaI (0.300 g) in CH3CN (3.2 mL) was added TMSCl (0.266 mL). This mixture was added to a suspension of methyl [8-hydroxy-1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]acetate (0.15 g, 0.515 mmol) in CH3CN (1.5 mL), in a water bath. After a period of 0.5 h, the reaction mixture was partitioned between EtOAc and NaHCO3. The organic phase was separated, washed with sodium thiosulphate, dried over MgSO4 and evaporated. The title compound was purified by flash chromatography.

reactant | NaI | 0.300 g | [Na+].[I-]
reactant | TMSCl | 0.266 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | methyl [8-hydroxy-1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]acetate | 0.515 mmol, 0.15 g | OC1(CCN2C3=C(C=C12)C(=NC=C3)SC)CC(=O)OC | C14H16N2O3S
solvent | CH3CN | 3.2 mL | CC#N | C2H3N
solvent | CH3CN | 1.5 mL | CC#N | C2H3N
product | methyl [1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]acetate | CSC1=NC=CC2=C1C=C1C(CCN21)CC(=O)OC | C14H16N2O2S
